US07332608B2
2-Phenylsulfonylamino-5-chloro-N-(phenylpyridin-2-ylmethyl)benzamide
211 mg of the title compound were obtained from 2-phenylsulfonylamino-5-chlorobenzoyl chloride and C-phenyl-C-pyridin-2-ylmethylamine in accordance with general method 5. MS (ES+): m/z=478 (M+1).

reactant | 2-phenylsulfonylamino-5-chlorobenzoyl chloride | C1(=CC=CC=C1)S(=O)(=O)NC1=C(C(=O)Cl)C=C(C=C1)Cl | C13H9Cl2NO3S
reactant | C-phenyl-C-pyridin-2-ylmethylamine | C1(=CC=CC=C1)C(C1=NC=CC=C1)N | C12H12N2
product | 2-Phenylsulfonylamino-5-chloro-N-(phenylpyridin-2-ylmethyl)benzamide | 211 mg | C1(=CC=CC=C1)S(=O)(=O)NC1=C(C(=O)NC(C2=NC=CC=C2)C2=CC=CC=C2)C=C(C=C1)Cl | C25H20ClN3O3S
